US05082944
18.7 kg of sodium bisulfite were dissolved in 55.8 liters of water and the pH was adjusted to a pH of 9 to 9.5 with 14.4 kg of sodium hydroxide. To the solution were added 11.7 kg of raw 3-chloro-pyridine-N-oxide and the mixture was heated in an autoclave to 145° C. The reaction mixture was stirred at 145° C. for 17 hours (during the reaction, a pressure of 4 to 5 bars resulted). After completion of the reaction, cooling to 90° C. took place. 1 kg of sodium hydroxide (50 weight %) was added to adjust to alkaline and in a nitrogen atmosphere, 0.5 kg of Raney nickel were added. The suspension was heated to 100° to 110° C. and at this temperature, hydrogen was pressed on with 7 bars. Hydrogenation was carried out for 16 hours and then the mixture was cooled to 70° C. and the catalyst was separated with a pressure filter. The pyridine-3-sulfonic acid was isolated as in Example 4 and purified.

reactant | sodium bisulfite | 18.7 kg | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 14.4 kg | [OH-].[Na+]
reactant | 3-chloro-pyridine-N-oxide | 11.7 kg | ClC=1C=[N+](C=CC1)[O-] | C5H4ClNO
reactant | sodium hydroxide | 1 kg | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | 55.8 liters | O | H2O
catalyst | Raney nickel | 0.5 kg | [Ni] | Ni
product | pyridine-3-sulfonic acid | N1=CC(=CC=C1)S(=O)(=O)O | C5H5NO3S
